US06127386
178c. 5-Allyl-3-(2-(S)-azetidinylmethoxy)-6-chloropyridine hydrochloride
To a solution of 5-allyl-3-(2-(S)-azetidinylmethoxy)-6-chloropyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 90-92° C.; 1H NMR (D2O) δ 2.70 (q, 2H, J=8.5 Hz), 3.52 (d, 2H, J=6.5 Hz), 4.02-4.20 (m, 2H), 4.42 (d, 1H, J=4.0 Hz), 4.93 (m, 1H), 5.08-5.22 (m, 2H), 5.99 (m, 1H), 7.50 (d, 1H, J=3.0 Hz), 8.05 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 239 (M+H)+. Anal. Calcd for C12H15ClN2O.1.4 HCl: C, 49.74; H, 5.70; N, 9.67. Found: C, 49.99; H, 5.78; N, 9.41. [α]25D -6.9 (c 0.6, MeOH).

reactant | 5-allyl-3-(2-(S)-azetidinylmethoxy)-6-chloropyridine | C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1NCC1 | C12H15ClN2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-Allyl-3-(2-(S)-azetidinylmethoxy)-6-chloropyridine hydrochloride | Cl.C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1NCC1 | InChI=1S/C12H15ClN2O.ClH/c1-2-3-9-6-11(7-15-12(9)13)16-8-10-4-5-14-10;/h2,6-7,10,14H,1,3-5,8H2;1H/t10-;/m0./s1
